US05929074
N-Benzyloxycarbonyl-3-(4-methylpiperazin-1-yl)-carbonylmethoxy-4-methoxybenzylamine
A mixture comprising 5 g of N-benzyloxycarbonyl-3-carboxymethyloxy-4-methoxybenzylamine, 1.67 g of triethylamine and 40 ml of tetrahydrofuran, was cooled with ice, and 1.79 g of ethyl chloroformate dissolved in 10 ml of tetrahydrofuran, was dropwise added thereto. The mixture was stirred for 2 hours. Then, 1.65 g of methylpiperazine dissolved in 10 ml of tetrahydrofuran, was added to the reaction solution, and the mixture was stirred at room temperature for 4.5 hours. The precipitate was filtered off, and the filtrate was distilled under reduced pressure. Water was added to the obtained residue, and the mixture was extracted with chloroform. The extract solution was washed with water and a saturated sodium chloride aqueous solution and then dried over anhydrous sodium sulfate. Then, the solvent was distilled off. The obtained residue was crystallized from ethyl acetate/diethyl ether/n-hexane to obtain 3.53 g of the above-identified compound as white crystals.

reactant | N-benzyloxycarbonyl-3-carboxymethyloxy-4-methoxybenzylamine | 5 g | C(C1=CC=CC=C1)OC(=O)NCC1=CC(=C(C=C1)OC)OCC(=O)O | C18H19NO6
reactant | triethylamine | 1.67 g | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 1.79 g | ClC(=O)OCC | C3H5ClO2
reactant | methylpiperazine | 1.65 g | CN1CCNCC1 | C5H12N2
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | N-Benzyloxycarbonyl-3-(4-methylpiperazin-1-yl)-carbonylmethoxy-4-methoxybenzylamine | 3.53 g | C(C1=CC=CC=C1)OC(=O)N(CC1=CC(=C(C=C1)OC)N1CCN(CC1)C)OC=C=O | C23H27N3O5
